Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
chills
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of nephrolithiasis and 
chronic headache and myofascial pain syndrome ___ prior back 
surgery who presents with acute onset shaking, shivering, and 
left sided flank pain. She was in her usual state of health 
until two evenings ago, when she experienced acute onset 
"tremors" which she describes and shakes and chills. This was 
associated with urinary frequency without urgency or dysuria, as 
well as severe flank pain that was consistent with pain during 
prior episodes of nephrolithiasis. She also experienced 
worsening of her usual chronic back pain and headache, for which 
she takes tramadol, Tylenol, ibuprofen, and duloxetine. She was 
concerned about these symptoms and presented to ___ ED. 

In the ED, she was found to have pyelonephritis based on this 
presentation and U/A with >182 WBCs. She was started on 
Ceftriaxone, given IVF, and received ketorolac and morphine for 
pain. She was admitted to medicine for further management.

This morning, she is feeling better though is still bothered by 
headache, diffuse back pain, and photophobia. She still reports 
urinary frequency and now has some urgency which she believes is 
due to IV fluids. She does not feel any fevers or chills. 
 
Past Medical History:
- Headache  
- Myofascial pain  
- back surgery for benign spinal cord tumor in the past  
- h/o nephrolithiasis (left)  
 
Social History:
___
Family History:
No family history of nephrolithiasis or recurrent UTIs.
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM:
VS - Tmax 99.0 BP ___ P ___ RR 16 Sat 100% RA
GENERAL: seated in bed comfortably, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM
NECK: nontender supple neck, no LAD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, mildly tender in LLQ, no rebound/guarding
BACK: Mild CVA tenderness.  
EXTREMITIES: no cyanosis, clubbing or edema 
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
.
>> DISCHARGE PHYSICAL EXAM:
VS - Tmax 98.7 BP ___ P ___ RR 16 Sat 98% RA
GENERAL: lying in bed comfortably, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nontender, nondistended, no rebound/guarding
BACK: Mild CVA tenderness.  
EXTREMITIES: WWP, no edema 
NEURO: AOX3 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
>> ADMISSION LABS:
___ 11:35PM BLOOD WBC-12.7* RBC-3.73* Hgb-10.7* Hct-32.6* 
MCV-87 MCH-28.7 MCHC-32.8 RDW-14.3 RDWSD-45.6 Plt ___
___ 11:35PM BLOOD Neuts-85.3* Lymphs-9.0* Monos-4.6* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-10.87* AbsLymp-1.14* 
AbsMono-0.58 AbsEos-0.06 AbsBaso-0.03
___ 07:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 11:35PM BLOOD Glucose-107* UreaN-16 Creat-0.6 Na-138 
K-3.8 Cl-103 HCO3-27 AnGap-12
___ 07:00AM BLOOD Calcium-9.2 Phos-2.4* Mg-2.0
___ 11:46PM BLOOD Lactate-0.8
.
>> DISCHARGE LABS:
___ 05:17AM BLOOD WBC-5.2 RBC-3.38* Hgb-9.7* Hct-30.4* 
MCV-90 MCH-28.7 MCHC-31.9* RDW-14.6 RDWSD-48.0* Plt ___
___ 05:17AM BLOOD Glucose-102* UreaN-10 Creat-0.5 Na-140 
K-4.4 Cl-105 HCO3-26 AnGap-13
.
>> IMAGING: 
___ Imaging CHEST (PA & LAT): No acute intrathoracic 
process. 
  

___ Imaging RENAL U.S. The right kidney measures 11.6 cm. 
The left kidney measures 12.9 cm.  There is no evidence of 
hydronephrosis.  Several tiny echogenic foci are seen in the 
bilateral kidneys, including a 3 mm focus in the mid region of 
the right kidney and a 4 mm focus of echogenicity in left 
kidney.  No clear shadowing is seen, but these foci likely 
represent nonobstructive stones.  No masses are seen 
bilaterally.  Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. The bladder is moderately 
well distended and normal in appearance. 
.  
IMPRESSION: No evidence of hydronephrosis.  Tiny echogenic foci 
in the bilateral kidneys, likely representing small 
nonobstructive stones.
.
 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of nephrolithiasis, 
chronic headache and myofascial pain syndrome admitted with 
pyelonephritis and worsening headache. 
.
>> ACTIVE ISSUES:
# Acute complicated pyelonephritis: Ms. ___ was found to have 
acute complicated pyelonephritis based on clinical presentation, 
urinalysis, and renal ultrasound demonstrating bilateral renal 
stones. She was treated with IV fluids and ceftriaxone and 
transitioned to PO ciprofloxacin before discharge to complete a 
10-day course. Patient urine culture grew pan-sensitive E. coli. 
Her chills/rigors resolved and flank pain improved significantly 
with antibiotics. For her pain, she did receive limited supply 
of toradol and then was discharged with limited number of 
ibuprofen.
.
# Headache: Patient presented with ___ headache. Of note, she 
has a history of chronic headaches, but they are usually 
intermittent and less severe. The pattern of pain was deemed to 
be consistent with a tension-type headache and thought to be 
triggered by active infection. Her headache was treated with her 
home duloxetine, tramadol and tylenol with ketorolac as needed 
for breakthrough pain.
.
>> CHRONIC ISSUES:
# Anemia: Patient was found to have a Hb of 9.6 which remained 
stable during hospitalization. She mentioned that she has 
chronic anemia, though our hospital has no records of previous 
CBCs to confirm this. CBC was trended but otherwise no 
intervention was performed.
.
# Myofascial pain syndrome: Patient has a history of myofascial 
pain syndrome, with exacerbation of back pain early in the 
hospitalization. This improved on her home medications plus 
ketorolac, and she did not experience significant back pain at 
the time of discharge.
.
>> TRANSITIONAL ISSUES:
# E. coli pyelonephritis: Urine cultures grew pan-sensitive E. 
coli. Please continue antibiotics through ___ for 10-day 
course. Patient will need a negative U/A to confirm clearance of 
infection and should follow up in urology given bilateral kidney 
stones.
# Anemia: Hb was stable at 9.7 at discharge. Recommend 
re-checking H/H and pursuing anemia workup as outpatient.
# EMERGENCY CONTACT HCP: husband ___ ___ 
# Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO BID:PRN pain 
2. Vitamin D ___ UNIT PO 1X/WEEK (TH) 
3. DULoxetine 20 mg PO DAILY 
4. Acetaminophen 500 mg PO Q8H 
5. Ibuprofen 600 mg PO BID:PRN pain 
6. Naproxen 500 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1. DULoxetine 20 mg PO DAILY 
2. TraMADol 50 mg PO BID:PRN pain 
3. Vitamin D ___ UNIT PO 1X/WEEK (TH) 
4. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*14 Tablet Refills:*0
5. Ibuprofen 600 mg PO BID:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every ___ hours Disp 
#*20 Tablet Refills:*0
6. Naproxen 500 mg PO EVERY OTHER DAY 
7. Acetaminophen 500 mg PO Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. Acute complicated pyelonephritis
2. Nephrolithiasis
3. Myofascial pain syndrome

Secondary diagnoses:
1. Tension-type headache
2. Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted with symptoms of back pain, 
headache and urinary frequency. Based on a urine analysis and 
blood tests you were found to have kidney infection 
(pyelonephritis). You were treated initially with the antibiotic 
ceftriaxone, though you will take ciprofloxacin when you go 
home. An ultrasound of your kidneys showed that there was no 
stone blocking your urinary tract, but there were small stones 
in both your kidneys. We recommend that you see an outpatient 
urologist because it is important to make sure that the 
infection is cleared from those stones.

We also gave you a pain reliever for your headache, and this 
improved by the time you went home.

Please continue your antibiotics through ___ and keep all 
your follow-up appointments.

We wish you the best,
Your ___ Team

 
Followup Instructions:
___